US06034239
(S)-N-[2-(6-allyloxy-5-bromoindan-1-yl)ethyl]propionamide
A solution of (S)-N-[2-(5-bromo-6-hydroxyindan-1-yl)ethyl]propionamide (48.8 g, 156 mmol.) in N,N-dimethylformamide (110 mL) was cooled with ice, to which was gradually added sodium hydride (6.35 g, 172 mmol., content 65%). The mixture was stirred for about 15 minutes. When the bubbling of hydrogen gas ceased, allyl bromide (22.7 g, 188 mmol.) was added, and the mixture was stirred for 30 minutes under ice-cooling. The reaction mixture was poured into ice-water, which was neutralized with dilute hydrochloric acid. The organic matter was extracted with ethyl acetate. The extract solution was washed with a saturated aqueous saline solution and water, which was then dried over magnesium sulfate, followed by distilling off the solvent under reduced pressure. The residue was purified by means of silica gel gel column chromatography (ethyl acetate) to afford the title compound (yield 52.97 g, 96%).

reactant | (S)-N-[2-(5-bromo-6-hydroxyindan-1-yl)ethyl]propionamide | 156 mmol, 48.8 g | BrC=1C=C2CC[C@H](C2=CC1O)CCNC(CC)=O | C14H18BrNO2
reactant | sodium hydride | 172 mmol, 6.35 g | [H-].[Na+]
reactant | allyl bromide | 188 mmol, 22.7 g | C(C=C)Br | C3H5Br
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | 110 mL | CN(C=O)C | C3H7NO
product | (S)-N-[2-(6-allyloxy-5-bromoindan-1-yl)ethyl]propionamide | yield 52.97 g, 96% | C(C=C)OC1=C(C=C2CC[C@H](C2=C1)CCNC(CC)=O)Br | C17H22BrNO2
